US05292760
2-Methoxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine hydrochloride
A solution of 1.83 g of N-formyl-2-methoxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, 25 ml of methanol, and 25 ml of 3N hydrochloric acid solution was heated for 3 hr under reflux. Methanol was added to clear the solution. The solution was concentrated, the residue was diluted with water, and extracted with ether. The aqueous phase was basified with 2.5N sodium hydroxide solution and extracted with dichloromethane. The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. An ether solution of the residue was treated with excess ethereal hydrogen chloride. Recrystallization from acetonitrile gave 0.83 g of product, mp 201°-203.5° C.

reactant | N-formyl-2-methoxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 1.83 g | C(=O)N(C(CC1=C(C=CC=C1)OC)C=1SC=CC1C)C | C16H19NO2S
reactant | hydrochloric acid | 3N, 25 ml | Cl | ClH
solvent | Methanol | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 2-Methoxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine hydrochloride | 0.83 g | Cl.COC1=C(C=CC=C1)CC(NC)C=1SC=CC1C | InChI=1S/C15H19NOS.ClH/c1-11-8-9-18-15(11)13(16-2)10-12-6-4-5-7-14(12)17-3;/h4-9,13,16H,10H2,1-3H3;1H
